US05350750
135 mg of 6-benzyloxy-4-methoxymethyl-β-carboline-3carboxylic acid-(2-phenyl-1,3-dioxan-5-yl)-ester under 10 ml of acetone and 100 ml of 4N hydrochloric acid is stirred for 1 hour at 80° C. bath temperature. The batch is concentrated by evaporation, taken up in aqueous ammonia and suctioned off. 100 mg of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-(1,3-dihydroxy-propan-2-yl)-ester of a melting point of 190°-192° C. is obtained.

reactant | 6-benzyloxy-4-methoxymethyl-β-carboline-3carboxylic acid-(2-phenyl-1,3-dioxan-5-yl)-ester | 135 mg | C1(=CC=CC=C1)C1OCC(CO1)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C31H28N2O6
solvent | hydrochloric acid | 4N, 100 ml | Cl | ClH
product | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid-(1,3-dihydroxy-propan-2-yl)-ester | 100 mg | OCC(CO)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C24H24N2O6
